US07074800B1
3-Fluoro-7-methoxyquinol-2(1H)-one (300 mg, 1.55 mmol), (prepared as in Tetrahedron, Vol. 52, No. 9, pp. 3223–3228, 1996), was dissolved in thionyl chloride (3 ml), treated with DMF (1 drop) and heated at reflux for 1 hour. The excess thionyl chloride was removed by evaporation and the residue azeotroped with toluene (3×). The residue was basified to pH8 with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate (3×20 ml). The organic solution was washed with water and brine then dried (MgSO4) and evaporated to dryness to give 2-chloro-3-fluoro-7-methoxyquinoline (320 mg, 97%).

reactant | 3-Fluoro-7-methoxyquinol-2(1H)-one | 1.55 mmol, 300 mg | FC=1C(NC2=CC(=CC=C2C1)OC)=O | C10H8FNO2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-chloro-3-fluoro-7-methoxyquinoline | 320 mg, 97% | ClC1=NC2=CC(=CC=C2C=C1F)OC | C10H7ClFNO
